US08232409B2
C. 5-[3-(tert-Butyl-dimethyl-silanoxy)-propyl]-2′-trifluoromethyl-biphenyl-3,4-diamine
3-(4,5-Diamino-2′-trifluoromethyl-biphenyl-3-yl)-propan-1-ol (101 mg, 0.324 mmol, as prepared in the previous step) was placed in an 8 mL vial equipped with a magnetic stir bar, and DCM (2 mL) was added via pipette. Imidazole (1.1 eq., 24.5 mg, 0.356 mmol) and TBSCl (1.1 eq., 53.7 mg, 0.356 mmol) were added sequentially as solids, and the reaction was stirred at RT for 2 h. The reaction was filtered, the precipitate was washed once with DCM (5 mL), and the filtrate was concentrated under reduced pressure. The crude product was purified by column chromatography on a 24-g SiO2 pre-packed column eluting with EtOAc/hexanes, 0:1 to 1:1, v/v over 30 min, yielding 93.2 mg (68%) of the title compound. 1H-NMR (400 MHz, CDCl3) δ: 7.69 (d, J=7.8 Hz, 1H), 7.49 (t, J=7.5 Hz, 1H), 7.38 (t, J=7.6 Hz, 1H), 7.32 (d, J=7.6 Hz, 1H), 6.61 (s, 1H), 6.59 (s, 1H), 3.66 (t, J=5.9 Hz, 2H), 3.52 (br. s., 4H), 2.65 (t, J=7.3 Hz, 2H), 1.75-1.87 (m, 2H), 0.91 (s, 9H), 0.07 (s, 6H).

reactant | 3-(4,5-Diamino-2′-trifluoromethyl-biphenyl-3-yl)-propan-1-ol | NC1=C(C=C(C=C1N)C1=C(C=CC=C1)C(F)(F)F)CCCO | C16H17F3N2O
reactant | Imidazole | 0.356 mmol, 24.5 mg, 1.1 eq. | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 0.356 mmol, 53.7 mg, 1.1 eq. | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-[3-(tert-Butyl-dimethyl-silanoxy)-propyl]-2′-trifluoromethyl-biphenyl-3,4-diamine | 93.2 mg, 68% | C(C)(C)(C)[Si](OCCCC=1C(=C(C=C(C1)C1=C(C=CC=C1)C(F)(F)F)N)N)(C)C | C22H31F3N2OSi
